US09107415B2
Intermediate 4: Synthesis of (2-chloro-6-methoxy-phenyl)-(2-furyl)methanol
To a solution of furan (10.7 mL, 147 mmol) in anhydrous tetrahydrofuran (100 mL) under an N2 atmosphere at −10°C. was added n-butyl lithium (65 mL of a 2.5M solution in hexanes, 162 mmol) dropwise over 35 minutes (the internal temperature was maintained at less than −7°C.). The mixture was stirred at this temperature for 1 hour 35 minutes before adding a solution of 2-chloro-6-methoxy-benzaldehyde (27.6 g, 162 mmol) in anhydrous tetrahydrofuran (100 mL) dropwise over 1 h 30 (internal temperature approx −5°C.). On completion of addition, the reaction mixture was warmed to room temperature and stirred at this temperature for 18 hours. Water (100 mL) was added then the mixture was diluted with EtOAc (100 ml). The phases were separated and aqueous phase was extracted into EtOAc (2×100 ml). The combined organics extracts were washed with brine (50 ml), dried over MgSO4 and concentrated to a yellow oil. The crude product was adsorbed onto silica and purified by flash chromatography over silica using an EtOAc/isohexane gradient to give the desired product (33.9 g, 97%) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.37 (d, 1H), 7.25-7.21 (m, 1H), 7.05 (dd, 1H), 6.89 (d, 1H), 6.34-6.29 (m, 2H), 6.06 (dt, 1H), 4.38 (d, 1H), 3.87 (s, 3H).

reactant | furan | 147 mmol, 10.7 mL | O1C=CC=C1 | C4H4O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-chloro-6-methoxy-benzaldehyde | 162 mmol, 27.6 g | ClC1=C(C=O)C(=CC=C1)OC | C8H7ClO2
reactant | Water | 100 mL | O | H2O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | (2-chloro-6-methoxy-phenyl)-(2-furyl)methanol | 33.9 g, 97% | ClC1=C(C(=CC=C1)OC)C(O)C=1OC=CC1 | C12H11ClO3
